US09353075B2
Step 1. Preparation of [4-(3-thienyl)-phenyl]-methanol
Under nitrogen atmosphere, at 0° C., to a stirring mixture of LiAlH4 (2.0 M THF solution, 3.92 mL, 7.84 mmol) in dry THF (6.0 mL), commercially available 4-(3-thienyl)-benzoic acid (0.4 g, 1.96 mmol) in dry THF (30 mL) was added dropwise. The mixture was left to react at rt for 4 h, then at 0° C. H2O (0.30 mL), 3.0 M KOH solution (0.30 mL) and H2O (1.0 mL) were very slowly added. The mixture was stirred for 1 h at 0° C., filtered to remove the solid residue, and the organic phase dried over Na2SO4. The organic solution was again filtered and concentrated to dryness, affording the title compound (0.222 g, 65%), which was used in the next step without any further purification. 1H NMR (DMSO-d6): δ 4.51 (d, J=5.75 Hz, 2H), 5.17 (t, J=5.75 Hz, 1H), 7.35 (d, J=8.1 Hz, 2H), 7.52-7.57 (m, 1H), 7.63 (dd, J=2.9, 5.0 Hz, 1H), 7.67 (d, J=8.1 Hz, 2H), 7.81-7.86 (m, 1H).

reactant | LiAlH4 | 7.84 mmol, 2.0 M, 3.92 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(3-thienyl)-benzoic acid | 1.96 mmol, 0.4 g | S1C=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C11H8O2S
reactant | H2O | 0.30 mL | O | H2O
reactant | KOH | 3.0 M, 0.30 mL | [OH-].[K+]
reactant | H2O | 1.0 mL | O | H2O
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [4-(3-thienyl)-phenyl]-methanol | 0.222 g, 65% | S1C=C(C=C1)C1=CC=C(C=C1)CO | C11H10OS
